US07176242B2
Methyl 4-(1,3-oxazol-2-yl)benzoate
To a −70° C., stirred solution of oxazole (190 μL, 3.8 mmol) in tetrahydrofuran (10 mL) is added n-butyl lithium (2.6 mL of a 1.6 M solution in hexanes, 4.2 mmol). After 30 min, zinc chloride (11.5 mL of a 1.0 M solution in diethyl ether, 11.5 mmol) is added. The reaction mixture is warmed to 0° C. and methyl 4-iodobenzoate (1 g, 3.8 mmol) and palladium(0) tetrakis(triphenylphosphine) (530 mg, 0.4 mmol) are added. The reaction mixture is heated at 70° C. for 20 h under argon, cooled to room temperature, and then partitioned between ethyl acetate and water. The organic layer is washed with water and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (3:1 hexanes/ethyl acetate) yields the title compound. 1H NMR (300 MHz, CDCl3) δ 8.14 (s, 4H), 8.07–8.05 (m, 1H), 7.36–7.35 (m, 1H), 3.95 (s, 3H).

reactant | oxazole | 3.8 mmol, 190 μL | O1C=NC=C1 | C3H3NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 4-iodobenzoate | 3.8 mmol, 1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(0) tetrakis(triphenylphosphine) | 0.4 mmol, 530 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Methyl 4-(1,3-oxazol-2-yl)benzoate | O1C(=NC=C1)C1=CC=C(C(=O)OC)C=C1 | C11H9NO3
